US07501419B2
2-(4-Fluoro-1H-indol-3-yl)-2-oxoacetyl chloride
To a stirred solution of 4-fluoroindole (2.00 g, 14.8 mmol) in ether (15 mL), at 0° C. under Ar, was added oxalyl chloride (1.55 mL, 17.8 mmol) dropwise. The resulting suspension was stirred at room temperature for 1 h and then it was filtered and the filtercake was washed with ether. The resulting solid was dried in vacuo to give the title compound (2.60 g, 78%) as a yellow powder:

reactant | 4-fluoroindole | 14.8 mmol, 2.00 g | FC1=C2C=CNC2=CC=C1 | C8H6FN
reactant | oxalyl chloride | 17.8 mmol, 1.55 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ether | 15 mL | CCOCC | C4H10O
product | 2-(4-Fluoro-1H-indol-3-yl)-2-oxoacetyl chloride | 2.60 g, 78% | FC1=C2C(=CNC2=CC=C1)C(C(=O)Cl)=O | C10H5ClFNO2
